US07582775B2
C. 2-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-6-carboxylic acid methyl ester
A solution of 2-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-6-carboxylic acid (3.98 g, 11.23 mmol) in MeOH (100 mL) is treated with H2SO4 (concentrated, 1.0 mL). The mixture is stirred at 80° C. for 8 h and neutralized with aqueous NaHCO3. The MeOH is removed under vacuum and the residue is extracted with EtOAc (2×100 mL). The combined organic layer is dried over Na2SO4, concentrated and purified by silica gel column chromatography (20% EtOAc/Hex) to give the product (4.05 g, 98%).

reactant | 2-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-6-carboxylic acid | 11.23 mmol, 3.98 g | C(C)C(CC)(C1=CC(=C(C=C1)O)C)C1=CC2=C(S1)C=C(C=C2)C(=O)O | C21H22O3S
reactant | H2SO4 | 1.0 mL | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | 2-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-6-carboxylic acid methyl ester | 4.05 g, 98% | COC(=O)C=1C=CC2=C(SC(=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC)C1 | C22H24O3S
